US09120804B2
8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine (5.500 g; 32.43 mmol) is suspended in water (40.0 ml) before HI (67%, 21.855 ml; 194 mmol) is added. The mixture is stirred at 50° C. for 16 h and monitored by HPLC. The mixture is cooled to Rt, diluted with water. After adding NaOH till pH 14 is reached, the resulting suspension is cooled to 0° C. and all solids are filtered off giving 8-Iodo-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine (7.850 g; 30.074 mmol) as a yellow solid.

reactant | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | 32.43 mmol, 5.500 g | ClC=1C=2N(C=CN1)N=C(N2)N | C5H4ClN5
reactant | HI | 194 mmol, 21.855 ml | I | HI
reactant | NaOH | [OH-].[Na+]
solvent | water | 40.0 ml | O | H2O
product | 8-Iodo-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | 30.074 mmol, 7.850 g | IC=1C=2N(C=CN1)N=C(N2)N | C5H4IN5
